US08735384B2
Synthesis of N-(2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)-N,3,3-trimethylbutanamide
A solution of 2-morpholinoacetonitrile (37.7 mg, 0.299 mmol) in DMSO (0.5 mL) was treated with concentrated aqueous KOH (11M; 8.08 μL, 0.095 mmol). The reaction mixture was heated to 80° C. and a solution of N-(4′-amino-3′-formyl-6-methylbiphenyl-2-yl)-N,3,3-trimethylbutanamide (64 mg, 0.189 mmol) in DMSO (1 mL) was added dropwise. After 10 min the reaction mixture was diluted with water and aqueous saturated ammonium chloride solution. The aqueous mixture was extracted with DCM. The organic phase was separated and dried over MgSO4. The solvent was removed under reduced pressure and the remaining residue was purified by preparative HPLC (10-100% water with 0.1% TFA/CH3CN, 11 min). The titled compound was isolated as a light-yellow foam. MS (ESI, pos. ion) m/z: 447 (M+1).

reactant | 2-morpholinoacetonitrile | 0.299 mmol, 37.7 mg | O1CCN(CC1)CC#N | C6H10N2O
reactant | KOH | 0.095 mmol, 11M, 8.08 μL | [OH-].[K+]
reactant | N-(4′-amino-3′-formyl-6-methylbiphenyl-2-yl)-N,3,3-trimethylbutanamide | 0.189 mmol, 64 mg | NC1=C(C=C(C=C1)C1=C(C=CC=C1C)N(C(CC(C)(C)C)=O)C)C=O | C21H26N2O2
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ammonium chloride | [Cl-].[NH4+]
product | N-(2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)-N,3,3-trimethylbutanamide | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C=CC=C1C)N(C(CC(C)(C)C)=O)C | C27H34N4O2
